Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Right upper and lower extremity weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is an ___ right-handed woman with a history 
of
hypertension, hyperlipidemia, hypothyroidism presenting with 3
episodes of right arm and right leg weakness that lasted for 
less
than 1 minute each time. 

On ___, she was on the phone with her son when she had
difficulty talkinge.  She could think of the words to say but 
had
trouble getting them out.  Then, she tried to get a glass of
water from the table but her right hand was not responding well. 

She had difficulty moving her R arm and she noticed her R leg 
was
the same. She was seated at the time.  She is not sure not sure
whether it lasted for a couple of seconds or couple of minutes.
Everything came back to normal quickly. She decided not to go to
hospital since she already had a ___ appointment with her
doctor. 

Today, at night, she had two similar episodes. She was sitting 
in
bed when she tried to go to the toilet but her R arm and leg
"wasn't helping" her. She tried to stand up from bed but her R
leg was unable to do what she wanted. She slowly ended up on the
floor without a fall. She was able to talk and she told her
husband to come help her. Her thinking was clear at this time.
Everything was back to normal in seconds. She was able to go to
the restroom and walked by herself back to bed.  Later that
night, she tried to go to restroom again.  In the same episode
occurred again.  So she called an ambulance and came to the ED.

She denies any other symptoms during these episodes. She denies
any trauma or head strike. She denies any headache, vision
changes, numbness, paresthesias, dysphasia, dysarthria, chest
pain, palpitations, shortness of breath, abdominal pain, nausea,
vomiting, diarrhea.

Her R big toe feels "swollen" but not numb or tingling. 

ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 
Past Medical History:
ATYPICAL NEVI                                                   
referred to ___                                        

HYPERLIPIDEMIA                                                  

HYPOTHYROIDISM                                           

UTERINE FIBROIDS                                                

VAGINAL ATROPHY                                                 

HYPERTENSION  
 
Social History:
___
Family History:
Father had mini-stroke at ___. Probable prostate cancer.  
Mother had heart condition but no MI. Mom had ___ 
 
Physical Exam:
Physical exam at the day of admission ___

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___,
___. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to name both high
and low frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent.

-Reflexes: +pec jerk b/l
  [Bic] [Tri] [___] [Pat] [Ach]
L   3     2      3      0     0
R   3     2      3      0     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Poor tandem gait. 

Physical exam at the day of discharge ___

-Mental Status: Alert, oriented to self, ___,
___. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Able to name both high
and low frequency objects.  Able to read without difficulty. No
dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.
Romberg absent.

-Reflexes: +pec jerk b/l
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2     2    2
R   2     2      2      2     2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Poor tandem gait. 

 
Pertinent Results:
___ 06:25AM BLOOD WBC-9.3 RBC-5.28* Hgb-13.5 Hct-42.1 
MCV-80* MCH-25.6* MCHC-32.1 RDW-14.7 RDWSD-42.5 Plt ___
___ 05:10AM BLOOD WBC-11.7* RBC-5.66* Hgb-14.4 Hct-45.3* 
MCV-80* MCH-25.4* MCHC-31.8* RDW-15.0 RDWSD-42.8 Plt ___
___ 06:25AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-31.0 ___
___ 06:25AM BLOOD ___ PTT-31.3 ___
___ 06:25AM BLOOD Glucose-117* UreaN-10 Creat-0.5 Na-136 
K-4.0 Cl-94* HCO3-25 AnGap-17
___ 05:10AM BLOOD Glucose-134* UreaN-16 Creat-0.8 Na-139 
K-4.5 Cl-98 HCO3-25 AnGap-16
___ 05:10AM BLOOD ALT-14 AST-20 AlkPhos-107* TotBili-0.3
___ 05:10AM BLOOD Lipase-19
___ 05:10AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.1 Cholest-254*
___ 05:10AM BLOOD %HbA1c-6.0 eAG-126
___ 06:25AM BLOOD Triglyc-126 HDL-84 CHOL/HD-3.0 
LDLcalc-145*
___ 05:10AM BLOOD Triglyc-90 HDL-91 CHOL/HD-3.1 
LDLcalc-171*
___ 06:25AM BLOOD TSH-2.7
___ 05:10AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:10AM BLOOD GreenHd-HOLD
___ 06:25AM BLOOD
___ 05:10AM BLOOD
___ 05:10AM BLOOD
 
Brief Hospital Course:
Patient was admitted to stroke service on ___. CT scan 
of the head and CTa were done and showed no large vascular 
territorial infarct or hemorrhage, probable aneurysm at the 
origin of the right posterior communicating artery measuring 
approximately 2.5 mm, patent circle of ___ without evidence 
of stenosis, occlusion, or aneurysm, and patent bilateral 
cervical carotid and vertebral arteries without evidence of 
hemodynamically significant stenosis, occlusion,or dissection. 

Patient was already started in the ED and continued on Aspirin 
and Clopidogrel on the floor. MRI scan of the head was done and 
showed no acute intracranial abnormality, no evidence of acute 
or subacute infarction, nonspecific white matter signal changes 
which most likely reflect chronic
microangiopathy, focus of probable chronic microhemorrhage in 
the right cerebellar
hemisphere. Patient will be discharged on aspirin and 
clopidogrel for 3 months and then will continue only with 
aspirin. ECHO will be arranged as an outpatient. In addition 
patient will follow up with Neurosurgery as an outpatient 
regarding the 2.5 mm aneurysm. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
4.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
5.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of right sided weakness 
resulting from a TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

This can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
1. High "LDL" or fats in your blood
2. High blood pressure 

We are changing your medications as follows:
- Start aspirin 81 mg daily
- Start clopidogrel 75 mg daily for 90 days (then stop)
- Start atorvastatin 40 mg daily
- Start amlodipine 5 mg daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

 
Followup Instructions:
___